US08232286B2
CIS- AND TRANS-4-(2,6-DIMETHYL-MORPHOLIN-4-YL)-CYCLOHEXYLAMINE-DIHYDROCHLORIDE
9.8 g (21 mmol) cis-dibenzyl-[4-(2,6-dimethyl-morpholin-4-yl)-cyclohexyl]-amine-dihydrochloride are placed in 150 ml of methanol and 2 g palladium/charcoal (10%) are added. The mixture is hydrogenated at 50 psi and 50° C. Then the catalyst is suction filtered, the mother liquor is concentrated by evaporation. The precipitate formed is suction filtered and washed with diethyl ether. Yield: 5.5 g. The trans isomer may be prepared analogously.

reactant | cis-dibenzyl-[4-(2,6-dimethyl-morpholin-4-yl)-cyclohexyl]-amine-dihydrochloride | 21 mmol, 9.8 g | Cl.Cl.C(C1=CC=CC=C1)N([C@@H]1CC[C@@H](CC1)N1CC(OC(C1)C)C)CC1=CC=CC=C1
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium/charcoal | 2 g | [Pd] | Pd
product | TRANS-4-(2,6-DIMETHYL-MORPHOLIN-4-YL)-CYCLOHEXYLAMINE-DIHYDROCHLORIDE | Cl.Cl.CC1CN(CC(O1)C)[C@@H]1CC[C@H](CC1)N | InChI=1S/C12H24N2O.2ClH/c1-9-7-14(8-10(2)15-9)12-5-3-11(13)4-6-12;;/h9-12H,3-8,13H2,1-2H3;2*1H/t9?,10?,11-,12-;;
